US07772285B2
0.98 g of methyl 4-{[4-[4-(cyclopentyloxy)-2-hydroxybenzoyl]-2-(3-methoxy-3-oxopropyl)phenoxy]methyl}-2-methoxybenzoate was dissolved in a mixed solvent of 10 mL of methanol and 10 mL of tetrahydrofuran, to which 2 mL of a 20% aqueous solution of sodium hydroxide was added at room temperature, and then this mixture was stirred for one hour at the same temperature. The reaction mixture to which water was added was adjusted to pH 2 with 6M hydrochloric acid, followed by the addition of ethyl acetate thereto, and the organic phase was separated therefrom. After the resultant organic phase was washed with water and a saturated sodium chloride solution successively, this washed phase was dried over anhydrous magnesium sulfate and the solvent was distilled out under reduced pressure. The resultant residue was recrystallized from ethanol to yield 0.42 g of 4-({2-(2-carboxyethyl)-4-[4-(cyclopentyloxy)-2-hydroxybenzoyl]phenoxy}methyl)-2-methoxybenzoic acid as light yellow solid.

reactant | methyl 4-{[4-[4-(cyclopentyloxy)-2-hydroxybenzoyl]-2-(3-methoxy-3-oxopropyl)phenoxy]methyl}-2-methoxybenzoate | 0.98 g | C1(CCCC1)OC1=CC(=C(C(=O)C2=CC(=C(OCC3=CC(=C(C(=O)OC)C=C3)OC)C=C2)CCC(=O)OC)C=C1)O | C32H34O9
reactant | water | O | H2O
reactant | hydrochloric acid | 6M | Cl | ClH
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methanol | 10 mL | CO | CH4O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | sodium hydroxide | [OH-].[Na+]
product | 4-({2-(2-carboxyethyl)-4-[4-(cyclopentyloxy)-2-hydroxybenzoyl]phenoxy}methyl)-2-methoxybenzoic acid | 0.42 g | C(=O)(O)CCC1=C(OCC2=CC(=C(C(=O)O)C=C2)OC)C=CC(=C1)C(C1=C(C=C(C=C1)OC1CCCC1)O)=O | C30H30O9
